US08133908B2
N-[((1S,4S,6S)-3-{[6-methyl-3-(2H-1,2,3-triazol-2-yl)-2-pyridinyl]carbonyl}-3-azabicyclo[4.1.0]hept-4-yl)methyl]-5-(trifluoromethyl)-2-pyrazinamine (E6)
6-methyl-3-(2H-1,2,3-triazol-2-yl)-2-pyridinecarboxylic acid D40 (33.0 mg) was dissolved in 1 ml of DCM, then TBTU (61.3 mg, 0.191 mmol) and DIPEA (0.033 ml, 0.191 mmol) were added. The suspension was stirred for 30 minutes at room temperature. N-[(1S,4S,6S)-3-azabicyclo[4.1.0]hept-4-ylmethyl]-5-(trifluoromethyl)-2-pyrazinamine D31 (40 mg) dissolved in 1 ml of DCM was added and the reaction was stirred overnight at room temperature. 3 ml of NaHCO3 saturated solution were added, and the aqueous layer was extracted with DCM. The organic layers were collected together, dried through a phase separator and concentrated under vacuum to give a crude which was purified by SCX chromatography (column size 5 g). A second purification was performed by Silica —NH chromatography (Biotage SP—column size 25 g, using Cy:EtOAc=5:5 to EtOAc). It was recovered the title compound E6 (30 mg). UPLC: (Acid Final_QC): rt=0.76 and 0.80 minutes (rotamers present), peaks observed: 459 (M+1). C21H21F3N8O requires 458. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.38 (s, 1 H) 8.28-8.22 (m, 1 H) 8.08-8.06 (s, 2 H), 7.90-7.78 (m, 2 H), 7.57-7.51 (m, 1 H) 4.20-4.08 (m, 1 H) 3.76-3.40 (m, 3 H), 2.68-2.61 (m, 1 H), 2.56 (s, 3 H), 2.44-2.35 (m, 1 H), 1.28-0.95 (m, 2 H), 0.92-0.83 (m, 1 H), 0.68-0.60 (m, 1 H), 0.24-0.18 (m, 1 H).

reactant | 6-methyl-3-(2H-1,2,3-triazol-2-yl)-2-pyridinecarboxylic acid | CC1=CC=C(C(=N1)C(=O)O)N1N=CC=N1 | C9H8N4O2
reactant | TBTU | 0.191 mmol, 61.3 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | 0.191 mmol, 0.033 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | N-[(1S,4S,6S)-3-azabicyclo[4.1.0]hept-4-ylmethyl]-5-(trifluoromethyl)-2-pyrazinamine | [C@H]12CN[C@@H](C[C@@H]2C1)CNC1=NC=C(N=C1)C(F)(F)F | C12H15F3N4
reactant | NaHCO3 | 3 ml | C(=O)(O)[O-].[Na+]
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
product | N-[((1S,4S,6S)-3-{[6-methyl-3-(2H-1,2,3-triazol-2-yl)-2-pyridinyl]carbonyl}-3-azabicyclo[4.1.0]hept-4-yl)methyl]-5-(trifluoromethyl)-2-pyrazinamine | CC1=CC=C(C(=N1)C(=O)N1C[C@H]2C[C@H]2C[C@H]1CNC1=NC=C(N=C1)C(F)(F)F)N1N=CC=N1 | C21H21F3N8O
